US07423159B2
To a mixture of ethyl 1,5-diphenyl-1H-pyrazole-4-carboxylate (14.9 g) and tetrahydrofuran (250 ml) was added dropwise diisobutylaluminum hydride (1 mol/l toluene solution, 120 ml) under ice-cooling. The reaction mixture was stirred at room temperature for 1 hr. and poured into a 1N aqueous hydrochloric acid solution. The mixture was extracted with ethyl acetate. The ethyl acetate layer was washed successively with a 1N aqueous hydrochloric acid solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated to give (1,5-diphenyl-1H-pyrazol-4-yl)methanol (12.6 g, 99%) as colorless crystals. Recrystallization thereof from ethyl acetate-hexane gave colorless prism crystals. melting point: 147-148° C.

reactant | ethyl 1,5-diphenyl-1H-pyrazole-4-carboxylate | 14.9 g | C1(=CC=CC=C1)N1N=CC(=C1C1=CC=CC=C1)C(=O)OCC | C18H16N2O2
reactant | diisobutylaluminum hydride | 1 mol/l, 120 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | (1,5-diphenyl-1H-pyrazol-4-yl)methanol | 12.6 g, 99% | C1(=CC=CC=C1)N1N=CC(=C1C1=CC=CC=C1)CO | C16H14N2O
